US07858640B2
2-(2-chloro-4-methanesulfonylbenzyl)-3-oxothiobutyric acid S-tert-butyl Ester
The title compound was prepared by the method of Preparation 34a using 1-bromomethyl-2-chloro-4-methanesulfonylbenzene and 3-oxothiobutyric acid S-tert-butyl ester.

reactant | 1-bromomethyl-2-chloro-4-methanesulfonylbenzene | BrCC1=C(C=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
reactant | 3-oxothiobutyric acid S-tert-butyl ester | C(C)(C)(C)SC(CC(C)=O)=O | C8H14O2S
product | 2-(2-chloro-4-methanesulfonylbenzyl)-3-oxothiobutyric acid S-tert-butyl Ester | C(C)(C)(C)SC(C(C(C)=O)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C16H21ClO4S2
